US06964961B2
A. 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid pyridin-3-ylamide
The title compound was prepared from 3-aminopyridine and lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate by a procedure analogous to Example 1B. MS: 290/292 (MH+), HPLC Rf: 4.72 min.; HPLC purity 95%.

reactant | 3-aminopyridine | NC=1C=NC=CC1 | C5H6N2
reactant | lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
product | 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid pyridin-3-ylamide | N1=CC(=CC=C1)NC(=O)C1=CC2=NC=CC(=C2S1)Cl | C13H8ClN3OS
